US05858995
A mixture of 2-bromomethyl-7-nitrobenzo[b]furan (512 mg), ethyl mercaptoacetate (0.24 ml) and potassium carbonate (552 mg) in N,N-dimethylformamide (4 ml) was stirred at ambient temperature for 2 hours. To the reaction mixture was added cold water and the separated solid was collected, washed with water and dried to give 2-ethoxycarbonylmethylthiomethyl-7-nitrobenzo[b]furan (546 mg).

reactant | 2-bromomethyl-7-nitrobenzo[b]furan | 512 mg | BrCC1=CC2=C(O1)C(=CC=C2)[N+](=O)[O-] | C9H6BrNO3
reactant | ethyl mercaptoacetate | 0.24 ml | SCC(=O)OCC | C4H8O2S
reactant | potassium carbonate | 552 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 2-ethoxycarbonylmethylthiomethyl-7-nitrobenzo[b]furan | 546 mg | C(C)OC(=O)CSCC1=CC2=C(O1)C(=CC=C2)[N+](=O)[O-] | C13H13NO5S
